US05861421
Preparation of 4-(4-carboxyphenylethynyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexan-1-one
A stirred solution of 4-(4-carbomethoxyphenylethynyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexane (0.146 g, 0.326 mmol) in dry methanol (5 mL) was treated with 10% aqueous sodium hydroxide solution (0.46 mL, 1.15 mmol) under an argon atmosphere as described in Example 13. The crude acid was purified by chromatography (silica, ethyl acetate/methylene chloride/formic acid; 10:90:1), the product fractions washed with water three times, was stripped in vacuo, was crystalized with ether and was dried in vacuo to afford the titled compound as a white solid (0.077 g, 55%), mp 170°-171° C. Anal. (C27H28O5) calcd: C 74.98, H 6.53 found: C 74.78, H 6.54.

reactant | 4-(4-carbomethoxyphenylethynyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexane | 0.326 mmol, 0.146 g | C(=O)(OC)C1=CC=C(C=C1)C#CC1(CCCCC1)C1=CC(=C(C=C1)OC)OC1CCCC1 | C28H32O4
reactant | sodium hydroxide | 1.15 mmol, 0.46 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 4-(4-carboxyphenylethynyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexan-1-one | 0.077 g, 55% | C(=O)(O)C1=CC=C(C=C1)C#CC1(CCC(CC1)=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C27H28O5
